US08609727B2
Methyl 4-{(3E)-2-[2-(4-cyanophenyl)ethyl]-4-[2-(3-phenylpropoxy)phenyl]but-3-en-1-yl}benzoate
A solution of 200 mg (0.486 mmol) of methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate in 5 ml of acetonitrile is mixed with 145 mg (0.73 mmol) of (3-bromopropyl)benzene and 100.76 mg (0.73 mmol) of potassium carbonate and then stirred under reflux for 12 h. After cooling, the potassium carbonate is filtered off and the filtrate is evaporated. 278 mg (0.45 mmol, 93% of theory, content 86%) of the title compound are obtained.

reactant | methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate | 0.486 mmol, 200 mg | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O | C27H25NO3
reactant | (3-bromopropyl)benzene | 0.73 mmol, 145 mg | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | potassium carbonate | 0.73 mmol, 100.76 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Methyl 4-{(3E)-2-[2-(4-cyanophenyl)ethyl]-4-[2-(3-phenylpropoxy)phenyl]but-3-en-1-yl}benzoate | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)OCCCC1=CC=CC=C1 | C36H35NO3
